US06359138B1
(S)-1-(5-Methoxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-chloro-benzyl)-piperidin-4-ol
The title compound, MS: m/e=387.9 (M+H+), was prepared from 4-(4-chloro-benzyl)-piperidin-4-ol and (S)-toluenesulfonic acid 5-methoxy-2,3-dihydro-benzofuran-2-ylmethyl ester.

reactant | 4-(4-chloro-benzyl)-piperidin-4-ol | ClC1=CC=C(CC2(CCNCC2)O)C=C1 | C12H16ClNO
reactant | (S)-toluenesulfonic acid 5-methoxy-2,3-dihydro-benzofuran-2-ylmethyl ester | COC=1C=CC2=C(C[C@H](O2)COS(=O)(=O)C=2C(=CC=CC2)C)C1 | C17H18O5S
product | (S)-1-(5-Methoxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-chloro-benzyl)-piperidin-4-ol | COC=1C=CC2=C(C[C@H](O2)CN2CCC(CC2)(O)CC2=CC=C(C=C2)Cl)C1 | C22H26ClNO3
